US04465508
2,4,5-Trichlorophenol (20 g) in dry dimethylacetamide (40 ml) was treated with sodium hydride (5.28 g of 50% dispersion in oil) in portions and the resulting mixture heated to 120° C. Ethyl-5-chloro-2-nitrobenzoate (16.5 g) was added in solution in dry dimethylacetamide (60 ml) and the mixture heated at 160° C. for ten hours. The solvent was removed and the residue washed with water and extracted with ether. The ether solution was extracted with ether. The ether solution was evaporated. The remaining oil solidified and was recrystallised from ethanol to give ethyl 5(2,4,5-trichlorophenoxy)-2-nitrobenzoate (10.9 g) with a melting point of 99°-102° C.

reactant | 2,4,5-Trichlorophenol | 20 g | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | sodium hydride | 5.28 g | [H-].[Na+]
reactant | Ethyl-5-chloro-2-nitrobenzoate | 16.5 g | C(C)OC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C9H8ClNO4
solvent | dimethylacetamide | 40 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 60 ml | CC(=O)N(C)C | C4H9NO
product | ethyl 5(2,4,5-trichlorophenoxy)-2-nitrobenzoate | 10.9 g | ClC1=C(OC=2C=CC(=C(C(=O)OCC)C2)[N+](=O)[O-])C=C(C(=C1)Cl)Cl | C15H10Cl3NO5
